US07977344B2
6-Amino-2-butoxy-9-(tetrahydro-2H-Pyran-4-ylmethyl)-7,9-dihydro-8H-Purin-8-one
2-Butoxy-8-methoxy-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine (0.22 g) was dissolved in methanol (10 mL) and treated with 4N hydrogen chloride in 1,4-dioxane (1 mL). The reaction was stirred at room temperature 16 hours and stripped to give a solid that was suspended in water (2 mL) before sufficient methanol was added until a solution was obtained. 2N Sodium hydroxide solution was added to bring to pH 7, and the solution concentrated until a suspension formed. The white solid was filtered and washed with water (2 mL, twice to complete transfer and wash). This was dried under suction and then under vacuum at 50° C. to give the title compound as a white solid (0.189 g).

reactant | 2-Butoxy-8-methoxy-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine | 0.22 g | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1CCOCC1)OC)N | C16H25N5O3
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | Sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
product | 6-Amino-2-butoxy-9-(tetrahydro-2H-Pyran-4-ylmethyl)-7,9-dihydro-8H-Purin-8-one | 0.189 g | NC1=C2NC(N(C2=NC(=N1)OCCCC)CC1CCOCC1)=O | C15H23N5O3
